US07411072B2
5-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methyl-benzooxazole
Dissolve 2-amino-4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol (60 mg, 0.191 mmol) in triethylorthoacetate (5 mL) and heat to reflux for 4 h. Cool to room temperature and concentrate in-vacuo to a brown oil. Chromatograph on 10 g silica gel eluting with 5% to 25% ethyl acetate/hexanes to afford S lmg (79%) of the title compound as a colorless oil. MS (ES) 338 (M+H); HPLC shows 98% purity.

reactant | 2-amino-4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol | 0.191 mmol, 60 mg | NC1=C(C=CC(=C1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C22H19NO
reactant | triethylorthoacetate | 5 mL | C(C)C(C([O-])([O-])[O-])(CC)CC
product | 5-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methyl-benzooxazole | 79% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=CC2=C(N=C(O2)C)C3 | C24H19NO
